US05175166
1-Methyl-3-triphenylmethyl-5(3-methyl-1,2,4-oxadiazol-5-yl)-1,4,5,6-tetrahydropyrimidinium Iodide
Methyliodide (38 μl, 0.6 mmol) was added to a stirred solution of 1-triphenylmethyl-5(3-methyl-1,2,4-oxadiazol-5-yl)-1,4,5,6-tetrahydropyrimidine (250 mg, 0.6 mmol) in chloroform (lml), in a round bottom flask with a septum, at room temperature. After 12 hours stirring the solvents were evaporated in vacuo giving 330 mg (100%) crude white crystals identified by 300 MHz nmr.

reactant | Methyliodide | 0.6 mmol, 38 μl | CI | CH3I
reactant | 1-triphenylmethyl-5(3-methyl-1,2,4-oxadiazol-5-yl)-1,4,5,6-tetrahydropyrimidine | 0.6 mmol, 250 mg | C1(=CC=CC=C1)C(N1C=NCC(C1)C1=NC(=NO1)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H24N4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-Methyl-3-triphenylmethyl-5(3-methyl-1,2,4-oxadiazol-5-yl)-1,4,5,6-tetrahydropyrimidinium Iodide | 330 mg, 100% | [I-].C[NH+]1CN(CC(C1)C1=NC(=NO1)C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C27H28N4O.HI/c1-21-28-26(32-29-21)22-18-30(2)20-31(19-22)27(23-12-6-3-7-13-23,24-14-8-4-9-15-24)25-16-10-5-11-17-25;/h3-17,22H,18-20H2,1-2H3;1H
